US06271225B1
In the same manner as in Starting Material Synthesis Example 4 and using ethyl 2-aminobenzo[b]thiophene-3-carboxylate, 2-fluoro-5-methoxynitrobenzene and dimethyl sulfoxide, ethyl 2-(4-methoxy-2-nitroanilino)benzo[b]thiophene-3-carboxylate is obtained.

reactant | ethyl 2-aminobenzo[b]thiophene-3-carboxylate | NC1=C(C2=C(S1)C=CC=C2)C(=O)OCC | C11H11NO2S
reactant | 2-fluoro-5-methoxynitrobenzene | FC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6FNO3
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | ethyl 2-(4-methoxy-2-nitroanilino)benzo[b]thiophene-3-carboxylate | COC1=CC(=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C=C1)[N+](=O)[O-] | C18H16N2O5S
